US06974831B2
E. Preparation of 1-benzyl-2-(1-hydroxyethyl)-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole
To a solution of 2-acetyl-1-benzyl-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole (4.68 g, 14.0 mmol) in ethanol (50 mL) was added sodium borohydride (537 mg, 14.0 mmol). After stirring for 2 h, 10% aqueous citric acid (10 mL) was added and the mixture concentrated in vacuo. The residue was dissolved in ethyl acetate, washed once with water, and once with saturated sodium bicarbonate solution. The organic layer was dried (magnesium sulfate), filtered and concentrated in vacuo to provide the title compound in quantitative yield. 1H NMR (CDCl3) δ 7.20 (m, 3H), 6.79 (d, J=7.0 Hz, 2H), 6.65 (s, 1H), 6.24 (s, 1H), 5.76 (s, 2H), 4.75 (quintet, J=6.6 Hz, 1H), 3.91 (s, 3H), 2.97 (m, 1H), 2.84 (m, 3H), 1.70 (m, 4H), 1.60 (d, J=6.6 Hz, 3H); MS ES+ m/e 336 (p+1).

reactant | 2-acetyl-1-benzyl-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole | 14.0 mmol, 4.68 g | C(C)(=O)C=1N(C2=C3C(=CC(=C2C1)OC)CCCC3)CC3=CC=CC=C3 | C22H23NO2
reactant | sodium borohydride | 14.0 mmol, 537 mg | [BH4-].[Na+]
reactant | citric acid | 10 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-benzyl-2-(1-hydroxyethyl)-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole | quantitative yield | C(C1=CC=CC=C1)N1C(=CC2=C(C=C3C(=C12)CCCC3)OC)C(C)O | C22H25NO2
